* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4620.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
Vin IN 0 SINE(0 50m 10k)
V2 -V 0 -15
Rload OUT 0 2k
X§U1 IN OUT +V -V OUT ADA4620
.tran 1m
.lib ADA4620.lib
.backanno
.end
